US09085540B2
Under an argon atmosphere, to a mixture of tetrahydrofuran (6 mL) and diisopropylamine (258 μL) was added dropwise n-butyllithium (1.62 M n-hexane solution, 1.04 mL) under ice-cooling. After cooling to −100° C., a mixture of 3,5-dichloro-2-cyclopropylpyrazine (290 mg) and tetrahydrofuran (2 mL) was added dropwise thereto, followed by stirring for 10 minutes. The obtained reactant was added to dry ice (10 g) and tetrahydrofuran (5 mL), followed by stirring for 30 minutes in a water bath. To the reactant were added 1 M hydrochloric acid and a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 3,5-dichloro-6-cyclopropylpyrazine-2-carboxylic acid (350 mg) as an oily material.

reactant | diisopropylamine | 258 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.62 M, 1.04 mL | C(CCC)[Li]
reactant | 3,5-dichloro-2-cyclopropylpyrazine | 290 mg | ClC=1C(=NC=C(N1)Cl)C1CC1 | C7H6Cl2N2
reactant | dry ice | 10 g | C(=O)=O | CO2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3,5-dichloro-6-cyclopropylpyrazine-2-carboxylic acid | 350 mg | ClC=1C(=NC(=C(N1)Cl)C1CC1)C(=O)O | C8H6Cl2N2O2
